US04687841
Z-Pro (7.5 gm, 0.03 mole) and N-Hydroxysuccinimide (3.45 gm, 0.03 mole) were dissolved in cold dioxane and dicyclohexylcarbodiimide (DCC) (6.18 gm, 0.03 mole) was added with rapid stirring. The mixture was stirred overnight at room temperature and the next day the solid dicyclohexylurea (DCU) was filtered off. The solvent was removed and the oil was recrystallized from isopropyl alcohol. Crystals of Z-Pro-OSu formed with scratching. Yield 8.4 gm. Melting point 86.5°-87.5° C.

reactant | Z-Pro | 0.03 mole, 7.5 gm | N1([C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C13H15NO4
reactant | N-Hydroxysuccinimide | 0.03 mole, 3.45 gm | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 0.03 mole, 6.18 gm | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Z-Pro-OSu | N1([C@H](C(=O)ON2C(=O)CCC2=O)CCC1)C(=O)OCC1=CC=CC=C1 | C17H18N2O6
